US09416117B2
Step 1—Preparation of rac-2-(2-{4-[(2,4-dioxothiazolidin-5-yl)methyl]phenoxy}ethyl)-5-ethylpyridine-1-oxide
The hydrochloric acid salt of pioglitazone (3 g, 7.64 mmol) was dissolved in N,N-dimethylformamide (DMF, 50 mL) and neutralized by addition of an aqueous solution of sodium bicarbonate (NaHCO3, 0.641 g, 7.64 mmol in 6 mL water). The reaction mixture was diluted with water and the white solid was filtered off. It was rinsed with water and dried under vacuum. The resulting solid was resuspended in dichloromethane (CH2Cl2), and meta-chloroperbenzoic acid (m-CPBA, 50% by weight, 2.64 g, 7.64 mmol) was added to the mixture while maintaining the temperature at about 10° C. The reaction mixture was stirred at room temperature for 2 days, and then one more equivalent of m-CPBA (2.64 g, 7.64 mmol) was added. The reaction mixture was stirred for 2 h, then diluted with CH2Cl2 (50 mL). The organic layer was washed with 10% Na2S2O3 in water/water (2:1 v:v), then with 1:1 v:v 10% NaHCO3 in water/water (1:1 v:v). The resulting organic mixture was dried over sodium sulfate, filtered and solvent evaporated to give the crude N-oxide, which was further purified by flash chromatography on silica gel (gradient elution: CH2Cl2/10% MeOH in CH2Cl2 from 9:1 to 1:1). Fractions containing the pure N-oxide were pooled and evaporated to give the title compound (1.313 g, 3.53 mmol, 46.2% yield). LC/MS: 373 (M+1)

reactant | hydrochloric acid | Cl | ClH
reactant | pioglitazone | 7.64 mmol, 3 g | CCC=1C=CC(=NC1)CCOC=2C=CC(=CC2)CC3C(=O)NC(=O)S3 | C19H20N2O3S
reactant | sodium bicarbonate | 7.64 mmol, 6 mL, 0.641 g | C([O-])(O)=O.[Na+]
reactant | meta-chloroperbenzoic acid | 7.64 mmol, 2.64 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-CPBA | 7.64 mmol, 2.64 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | rac-2-(2-{4-[(2,4-dioxothiazolidin-5-yl)methyl]phenoxy}ethyl)-5-ethylpyridine-1-oxide | 3.53 mmol, 1.313 g, 46.2% yield | O=C1SC(C(N1)=O)CC1=CC=C(OCCC2=[N+](C=C(C=C2)CC)[O-])C=C1 | C19H20N2O4S
